US05254578
trans-3.4-Dihydro-4-(1,2-dihydro-3-methoxy-2-oxo-1-pyridyl)-2,2-dimethyl-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol (Compound No. 1-42)
98 mg of 3-methoxy-2(1H)-pyridone were added to a suspension of 38 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) in 3 ml of dimethyl sulfoxide, and the resulting mixture was stirred at room temperature for 30 minutes. At the end of this time, a solution of 200 mg of 3,4-epoxy-3,4-dihydro-2,2-dimethyl-6-trifluoromethylsulfonyl-2H-1-benzopyran (prepared as described in Preparation 8) in 1.5 ml of dimethyl sulfoxide was added at the same temperature and under an atmosphere of nitrogen. The reaction mixture was stirred at room temperature for 4 days, after which it was worked up in a similar manner to that described in Example 2. The product was then purified by column chromatography through silica gel, using a 1:2 by volume mixture of ethyl acetate and cyclohexane as the eluent, to give 16 mg of the title compound, melting at 223°-225° C.

reactant | 3-methoxy-2(1H)-pyridone | 98 mg | COC=1C(NC=CC1)=O | C6H7NO2
reactant | sodium hydride | 38 mg | [H-].[Na+]
reactant | 3,4-epoxy-3,4-dihydro-2,2-dimethyl-6-trifluoromethylsulfonyl-2H-1-benzopyran | 200 mg | O1C2C(OC3=C(C21)C=C(C=C3)S(=O)(=O)C(F)(F)F)(C)C | C12H11F3O4S
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | trans-3.4-Dihydro-4-(1,2-dihydro-3-methoxy-2-oxo-1-pyridyl)-2,2-dimethyl-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol | 16 mg | COC=1C(N(C=CC1)[C@H]1[C@@H](C(OC2=C1C=C(C=C2)S(=O)(=O)C(F)(F)F)(C)C)O)=O | C18H18F3NO6S
